US07569577B2
tert-Butyl 4-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate was coupled with tert-butyl (3-bromo-2-fluorophenyl)carbamate using an analogous process to that described in Example 22 (preparation of starting materials) for the preparation of N-(3-chloro-4-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride, to give N-(3-bromo-2-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride; 1H NMR Spectrum: (DMSO d6) 1.85-2.1 (m, 2H), 2.1-2.32 (m, 2H), 3.0-3.35 (m, 4H), 4.02 (s, 3H), 4.83-5.0 (m, 1H), 7.3 (dd, 1H), 7.5-7.65 (m, 2H), 7.75 (dd, 1H), 8.45 (s, 1H), 8.8(s, 1H), 9.15 (bs, 2H), 11.86 (s, 1H); Mass Spectrum: (M+H)+ 447.12.

reactant | tert-Butyl 4-[(4-chloro-6-methoxyquinazolin-7-yl)oxy]piperidine-1-carboxylate | ClC1=NC=NC2=CC(=C(C=C12)OC)OC1CCN(CC1)C(=O)OC(C)(C)C | C19H24ClN3O4
reactant | tert-butyl (3-bromo-2-fluorophenyl)carbamate | BrC=1C(=C(C=CC1)NC(OC(C)(C)C)=O)F | C11H13BrFNO2
reactant | N-(3-chloro-4-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride | Cl.ClC=1C=C(C=CC1F)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCNCC1
product | N-(3-bromo-2-fluorophenyl)-6-methoxy-7-(piperidin-4-yloxy)quinazolin-4-amine hydrochloride | Cl.BrC=1C(=C(C=CC1)NC1=NC=NC2=CC(=C(C=C12)OC)OC1CCNCC1)F | InChI=1S/C20H20BrFN4O2.ClH/c1-27-17-9-13-16(10-18(17)28-12-5-7-23-8-6-12)24-11-25-20(13)26-15-4-2-3-14(21)19(15)22;/h2-4,9-12,23H,5-8H2,1H3,(H,24,25,26);1H
